US04028415
Dimethylamine in ethanol (30 ml s of 33% solution) was added to a solution of 3-bromo-1-p-fluorophenyl-1-phenyl-propan-2-one (13 g) in dry ether. After 45 minutes, the reaction mixture was extracted with dilute hydrochloric acid and ether. Basification of the acid extract and subsequent isolation through ether in the usual manner gave 3-dimethylamino-1-p-fluorophenyl-1-phenyl-propan-2-one isolated as the hydrochloride (5.8 g., 53%), m.p. 219° - 220°.

reactant | Dimethylamine | CNC | C2H7N
reactant | 3-bromo-1-p-fluorophenyl-1-phenyl-propan-2-one | 13 g | BrCC(C(C1=CC=CC=C1)C1=CC=C(C=C1)F)=O | C15H12BrFO
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 3-dimethylamino-1-p-fluorophenyl-1-phenyl-propan-2-one | CN(CC(C(C1=CC=CC=C1)C1=CC=C(C=C1)F)=O)C | C17H18FNO
